US04789674
6.5 g (0.02 mol) of 1,1',5,5'-tetrahydro-4-hydroxy-2,2'-dioxo-[3,4'-bi-2H-pyrrole]-1,1'-diacetic acid dimethyl ester are stirred in 100 ml of water and 20 ml of concentrated aqueous sodium hydroxide solution for 12 hours at 90°. The solution is then rendered strongly acidic with concentrated aqueous hydrochloric acid solution while cooling with an ice-water bath. The resulting suspension is stirred for a further 2 hours in order to complete the reaction, then filtered, washed with water and acetone and dried under a high vacuum. 1,1',5,5'-tetrahydro-4-hydroxy-2,2'-dioxo-[3,4'-bi-2H-pyrrole]-1,1'-diacetic acid is obtained in the form of white microcrystals having a melting point of 268° (decomposition).

reactant | 1,1',5,5'-tetrahydro-4-hydroxy-2,2'-dioxo-[3,4'-bi-2H-pyrrole]-1,1'-diacetic acid dimethyl ester | 0.02 mol, 6.5 g | COC(CN1C(C(=C(C1)O)C1=CC(N(C1)CC(=O)OC)=O)=O)=O | C14H16N2O7
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 1,1',5,5'-tetrahydro-4-hydroxy-2,2'-dioxo-[3,4'-bi-2H-pyrrole]-1,1'-diacetic acid | OC1=C(C(N(C1)CC(=O)O)=O)C1=CC(N(C1)CC(=O)O)=O | C12H12N2O7
